US09145433B2
6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)pyrimidin-2(1H)-one (0.83 g) and POCl3 (3 mL) were heated at 130° C. under nitrogen. The reaction mixture was cooled to room temperature upon completion of the reaction (2 h). The volatiles were removed and quenched the concentrate with ice. The semi-heterogeneous slurry was neutralized with aq. NaHCO3 solution while stirring, warmed to room temperature and diluted with EtOAc (200 mL). The organic layer was separated, stirred over MgSO4, filtered, concentrated and purified by flash chromatography (Combiflash® companion System® with RediSep® silica gel column 12 g and 10-50% EtOAc/Hexanes as eluting solvent) to obtain 2-chloro-4-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)pyrimidine as a clear viscous liquid.

reactant | 6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)pyrimidin-2(1H)-one | 0.83 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C1=CC=NC(N1)=O)C | C16H12FN3O
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)pyrimidine | ClC1=NC=CC(=N1)C=1C(=NC=CC1)C1=CC(=C(C=C1)F)C | C16H11ClFN3
